US04083860
In a 500 ml four-neck round-bottom flask equipped with a stirrer, thermometer, standard taper glass stopper, stillhead with condenser, cooled distillate receiver and cold trap, 133 g of tributyltin ethyl phosphite and 68.7 g of lauryl alcohol are heated with stirring for about 5 hours at 140° C, a vacuum of about 30 - 5 mm Hg being applied for 1 hour. Ethanol is initially distilled off and then the excess lauryl alcohol is distilled. 178 g tributyltin lauryl phosphite are obtained.

reactant | tributyltin ethyl phosphite | 133 g | C(C)OP([O-])[O-].C(CCC)[Sn+2](CCCC)CCCC
reactant | lauryl alcohol | 68.7 g | C(CCCCCCCCCCC)O | C12H26O
product | tributyltin lauryl phosphite | 178 g | C(CCCCCCCCCCC)OP([O-])[O-].C(CCC)[Sn+2](CCCC)CCCC | InChI=1S/C12H25O3P.3C4H9.Sn/c1-2-3-4-5-6-7-8-9-10-11-12-15-16(13)14;3*1-3-4-2;/h2-12H2,1H3;3*1,3-4H2,2H3;/q-2;;;;+2
